US07754746B2
[2-(2,2-Difluoro-ethylcarbamoyl)-ethyl]-carbamic acid
[2-(2,2-Difluoro-ethylcarbamoyl)-ethyl]-carbamic acid tert-butyl ester (2.75 g, 10.9 mmol) was suspended in 4M hydrochloric acid in dioxane (30 ml) and stirred at RT for 18 h. Dichloromethane was added (50 ml) and the solid filtered off and dried in vacuo (2.02 g, 100%).

reactant | [2-(2,2-Difluoro-ethylcarbamoyl)-ethyl]-carbamic acid tert-butyl ester | 10.9 mmol, 2.75 g | C(C)(C)(C)OC(NCCC(NCC(F)F)=O)=O | C10H18F2N2O3
reactant | Dichloromethane | ClCCl | CH2Cl2
solvent | hydrochloric acid | 4M | Cl | ClH
solvent | dioxane | 30 ml | O1CCOCC1 | C4H8O2
product | [2-(2,2-Difluoro-ethylcarbamoyl)-ethyl]-carbamic acid | FC(CNC(=O)CCNC(O)=O)F | C6H10F2N2O3
